US03939159
100 g (0.75 mole) of 2,5-dimethoxytetrahydrofuran are added to a solution of 84.1 g (0.5 mole) of 4-methoxy-2-nitroaniline in 500 ml. of glacial acetic acid. The solution is refluxed for 30 minutes, poured into 2500 ml. of water, and neutralized with potassium hydroxide. A solid precipitates and is filtered, dried, and recrystallized from ether to give 1-(4-methoxy-2-nitrophenyl)pyrrole, m.p. 75.5°-76.5° C.

reactant | 2,5-dimethoxytetrahydrofuran | 0.75 mole, 100 g | COC1OC(CC1)OC | C6H12O3
reactant | 4-methoxy-2-nitroaniline | 0.5 mole, 84.1 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 1-(4-methoxy-2-nitrophenyl)pyrrole | COC1=CC(=C(C=C1)N1C=CC=C1)[N+](=O)[O-] | C11H10N2O3
